### PR TITLE
Erdős Problem 940

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/940.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+-/
+
+/--
+Let $r \ge 3$. Is it true that the set of integers which are the sum of at most $r$ $r$-powerful numbers
+has density $0$?
+-/
+@[category research open, AMS 11]
+theorem erdos_940 :
+    (∀ r ≥ 3,
+    {n : ℕ | ∃ (S : Multiset ℕ), S.card ≤ r ∧ (∀ s ∈ S, r.Full s) ∧ n = S.sum}.HasDensity 0)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/940.lean]:
```suggestion
      {n : ℕ | ∃ (S : Multiset ℕ), S.card ≤ r ∧ (∀ s ∈ S, r.Full s) ∧ n = S.sum}.HasDensity 0)
```

File: FormalConjectures/ErdosProblems/940.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+    ↔ answer(sorry) := by
+  sorry
+
+/--
+The set of integers which are the sum of at most two $2$-powerful numbers has density $0$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_940.variants.two :
+    {n : ℕ | ∃ (S : Multiset ℕ),
+    S.card ≤ 2 ∧ (∀ s ∈ S, (2).Full s) ∧ n = S.sum}.HasDensity 0 := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/940.lean]:
```suggestion
      S.card ≤ 2 ∧ (∀ s ∈ S, (2).Full s) ∧ n = S.sum}.HasDensity 0 := by
```

File: FormalConjectures/ErdosProblems/940.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+  sorry
+
+/--
+Is it true that the set of integers which are the sum of at most three cubes has density $0$?
+-/
+@[category research open, AMS 11]
+theorem erdos_940.variants.three_cubes :
+    ({n : ℕ | ∃ (S : Multiset ℕ), S.card ≤ 3 ∧ n = (Multiset.map (· ^3) S).sum}.HasDensity 0)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/940.lean]:
```suggestion
    {n : ℕ | ∃ (S : Multiset ℕ), S.card ≤ 3 ∧ n = (Multiset.map (· ^ 3) S).sum}.HasDensity 0
```

File: FormalConjectures/ErdosProblems/940.lean [hunk 4]
```diff
@@ -0,0 +1,75 @@
...
+
+
+/--
+It is not known if all large integers are the sum of at most $r$-many $r$-powerful numbers.
+-/
+@[category research open, AMS 11]
+theorem erdos_940.variants.large_integers :
+    (∀ r, (∀ᶠ x in atTop, ∃ (S : Multiset ℕ), S.card ≤ r ∧ (∀ s ∈ S, r.Full s) ∧ x = S.sum))
+    ↔ answer(sorry) := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/940.lean]: I think here you'll want `r` at least 2 (since the theorem is trivially false for `r = 0`)

Comment (mo271) [reply FormalConjectures/ErdosProblems/940.lean]: that makes sense, also `r=1` doesn't really make sense.
